US07563793B2
Preparation of 4-ethyl-4,5-dihydropyrrolo[1,2-a]quinoxaline
The title compound was prepared from 2-nitro aniline according to the sequence of Example 1 and 2, and the resulting oil treated with proprionaldehyde according to the procedure of Example 3 to yield a light orange oil, which was used in the next step without further characterization.

reactant | 2-nitro aniline | [N+](=O)([O-])C1=C(N)C=CC=C1 | C6H6N2O2
reactant | proprionaldehyde | C(CC)=O | C3H6O
product | 4-ethyl-4,5-dihydropyrrolo[1,2-a]quinoxaline | C(C)C1C=2N(C3=CC=CC=C3N1)C=CC2 | C13H14N2
